US08222246B2
6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide
A trimethylaluminium solution (2 M in toluene, 418 μL, 0.84 mmol) was added to a solution of isopropylamine (49.6 mg, 0.84 mmol) in dioxane (3.75 mL). 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (75.0 mg, 0.21 mmol) in dioxane (3.75 mL) was added after 1 h at 50° C. The reaction mixture was stirred at 85° C. overnight. Again trimethylaluminium solution in toluene (2 M, 418 μL, 0.84 mmol) and isopropylamine (49.6 mg, 0.84 mmol) was added and stirring was continued for 3 h at 85° C. The solvent was removed by distillation. The residue was purified by chromatography (silica, ethyl acetate:heptane=1:1 to 7:3) to afford the title compound (32 mg, 39%) as white solid. MS: m/e=386.2 [M+H]+.

reactant | trimethylaluminium | 0.84 mmol, 2 M, 418 μL | C[Al](C)C
reactant | isopropylamine | 0.84 mmol, 49.6 mg | C(C)(C)N | C3H9N
reactant | 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.21 mmol, 75.0 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)F)=O | C18H15FN2O5
reactant | toluene | 0.84 mmol, 2 M, 418 μL | C1(=CC=CC=C1)C | C7H8
reactant | isopropylamine | 0.84 mmol, 49.6 mg | C(C)(C)N | C3H9N
solvent | dioxane | 3.75 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.75 mL | O1CCOCC1 | C4H8O2
product | 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide | 32 mg, 39% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC(C)C)C=C1)CO | C20H20FN3O4
